US06265424B1
reacting 4,5-dibromo-2-cyano-3-methylthiophene with zinc dust to provide the required 4-bromo-2-cyano-3-methylthiophene starting material;

reactant | 4,5-dibromo-2-cyano-3-methylthiophene | BrC=1C(=C(SC1Br)C#N)C | C6H3Br2NS
catalyst | zinc | [Zn] | Zn
product | 4-bromo-2-cyano-3-methylthiophene | BrC=1C(=C(SC1)C#N)C | C6H4BrNS
